US07098226B2
1-[2-(1-Adamantyl)ethyl]-1-[2-[N-(2-methoxyethyl)-N-methylamino]ethyl]-3-[3-(4-pyridyl)propyl]urea (Compound No. 17-1)
To N,N-dimethylformamide (20 ml) were added 1-[2-(1-adamantyl)ethyl]-1-(2-methylaminoethyl)-3-[3-(4-pyridyl)propyl]urea (1.50 g, 3.76 mmol), which was a free base of Compound No. 3-1, potassium carbonate (1.56 g, 11.3 mmol) and sodium iodide (1.69 g, 11.3 mmol) at room temperature, then 2-chloroethyl methyl ether (412 μl, 4.51 mmol) was added to the mixture, and the whole was heated at 80° C. The whole was stirred overnight, diethyl ether (50 ml) and water (100 ml) were added to the reaction mixture, and the whole was extracted. The obtained organic layer was washed with water (100 ml) and a saturated aqueous sodium chloride solution (50 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 552 mg (32.1%) of the titled compound as a pale yellow oily matter.

reactant | 1-[2-(1-adamantyl)ethyl]-1-(2-methylaminoethyl)-3-[3-(4-pyridyl)propyl]urea | 3.76 mmol, 1.50 g | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCNC | C24H38N4O
reactant | potassium carbonate | 11.3 mmol, 1.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 11.3 mmol, 1.69 g | [I-].[Na+]
reactant | 2-chloroethyl methyl ether | 4.51 mmol, 412 μl | COCCCl | C3H7ClO
solvent | water | 100 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[2-(1-Adamantyl)ethyl]-1-[2-[N-(2-methoxyethyl)-N-methylamino]ethyl]-3-[3-(4-pyridyl)propyl]urea | 552 mg, 32.1% | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCN(C)CCOC | C27H44N4O2
